US07309701B2
Working as in example 2 for the preparation of N-(2,4-dichlorobenzyl)-3-oxo-6-pyridin-4-yl-2,3-dihydropyridazine-4-carboxamide, but starting with 0.3 g of 3-oxo-6-pyridin-4-yl-2,3-dihydropyridazine-4-carboxylic acid, 10 cm3 of dichloromethane, 0.02 cm3 of dimethylformamide, 0.12 cm3 of oxalyl chloride, 0.15 cm3 of 4-(aminomethyl)pyridine and 0.19 cm3 of triethylamine, 0.14 g of 3-oxo-6-pyridin-4-yl-N-(pyridin-4-ylmethyl)-2,3-dihydropyridazine-4-carboxamide was obtained in the form of a cream-colored solid melting at 254° C.

reactant | N-(2,4-dichlorobenzyl)-3-oxo-6-pyridin-4-yl-2,3-dihydropyridazine-4-carboxamide | ClC1=C(CNC(=O)C=2C(NN=C(C2)C2=CC=NC=C2)=O)C=CC(=C1)Cl | C17H12Cl2N4O2
reactant | 3-oxo-6-pyridin-4-yl-2,3-dihydropyridazine-4-carboxylic acid | 0.3 g | O=C1NN=C(C=C1C(=O)O)C1=CC=NC=C1 | C10H7N3O3
reactant | oxalyl chloride | 0.12 cm3 | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-(aminomethyl)pyridine | 0.15 cm3 | NCC1=CC=NC=C1 | C6H8N2
solvent | triethylamine | 0.19 cm3 | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 0.02 cm3 | CN(C=O)C | C3H7NO
solvent | dichloromethane | 10 cm3 | ClCCl | CH2Cl2
product | 3-oxo-6-pyridin-4-yl-N-(pyridin-4-ylmethyl)-2,3-dihydropyridazine-4-carboxamide | 0.14 g | O=C1NN=C(C=C1C(=O)NCC1=CC=NC=C1)C1=CC=NC=C1 | C16H13N5O2
